US06960575B2
(2S)-2-{(3RS)-4-Acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-1-(4,4-dimethyl-4,5-dihydro-1,3-oxazol-2-yl)-1-oxo-3-phenylpropane (Compound No. 10-1)
Dess-Martin oxidizing reagent (293 mg) and tert-butanol (650 μl) are added to a solution of (1RS,2S)-2-{(3RS)-4-acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-1-(4,4-dimethyl-4,5-dihydro-1,3-oxazol-2-yl)-3-phenyl-1-propanol (93.3 mg, Compound No. 9-1) in methylene chloride (2.5 ml), and the mixture is stirred for one day. A saturated aqueous sodium hydrogencarbonate solution (6 ml) and an aqueous sodium thiosulfate solution (6 ml) are added to the reaction mixture, and the whole is stirred and then extracted with ethyl acetate. The extract is washed with an aqueous sodium thiosulfate solution, a saturated aqueous sodium hydrogencarbonate solution and saturated brine successively and dried over anhydrous magnesium sulfate. The extract is concentrated under reduced pressure, and the resulting residue is purified by silica gel column chromatography to give the titled compound (43.8 mg).

reactant | Dess-Martin | 293 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | (1RS,2S)-2-{(3RS)-4-acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-1-(4,4-dimethyl-4,5-dihydro-1,3-oxazol-2-yl)-3-phenyl-1-propanol | 93.3 mg | C(C)(=O)N1C(C(N(C(=C1)C1=CC=CC=C1)CC(=O)N[C@H](C(O)C=1OCC(N1)(C)C)CC1=CC=CC=C1)=O)C(C)C | C31H38N4O5
reactant | sodium hydrogencarbonate | 6 ml | C(O)([O-])=O.[Na+]
reactant | sodium thiosulfate | 6 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 2.5 ml | C(Cl)Cl | CH2Cl2
solvent | tert-butanol | 650 μl | C(C)(C)(C)O | C4H10O
product | (2S)-2-{(3RS)-4-Acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-1-(4,4-dimethyl-4,5-dihydro-1,3-oxazol-2-yl)-1-oxo-3-phenylpropane | 43.8 mg | C(C)(=O)N1C(C(N(C(=C1)C1=CC=CC=C1)CC(=O)N[C@H](C(=O)C=1OCC(N1)(C)C)CC1=CC=CC=C1)=O)C(C)C | C31H36N4O5
